US08389520B2
Stage a): 4-Chloro-6-piperidin-1-ylpyrimidine
A mixture of 10.0 g (67.1 mmol) 4,6-dichloropyrimidine and 5.7 g (67.1 mmol) piperidine in 100 ml water is stirred at a bath temperature of 115° C. for 16 h. After cooling to RT, the precipitate is filtered off, washed with water and dried in vacuo.

reactant | 4,6-dichloropyrimidine | 67.1 mmol, 10.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | piperidine | 67.1 mmol, 5.7 g | N1CCCCC1 | C5H11N
solvent | water | 100 ml | O | H2O
product | 4-Chloro-6-piperidin-1-ylpyrimidine | ClC1=NC=NC(=C1)N1CCCCC1 | C9H12ClN3
